US05962529
N-Benzyloxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide
[Octyl-(toluene-4-sulfonyl)amino]-acetic acid (4.0 g, 0.012 mol) was taken up in DMF (150 ml) and treated at room temperature with NMM (1.55 ml, 0.014 mol) followed by EDC (2.92 g, 0.015 mol). The reaction mixture was allowed to stir for 15 minutes at room temperature before the addition of HOBt (2.1 g, 0.016 mol). The reaction mixture was left to stir for a further 20 minutes before a mixture of O-benzylhydroxylamine hydrochloride (1.87 g, 0.012 mol) and NMM (2.6 ml, 0.024 mol) in DMF (50 ml) was added. The reaction mixture was allowed to stir at room temperature for a further 48 h. The DMF was removed under reduced pressure and the resulting crude oil was dissolved in ethyl acetate (200 ml). The solution was washed consecutively with 1 M HCI, 0.5M Na2CO3 and brine, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The resulting crude oil was purified by flash chromatography (silica gel, 10% methanol in dichloromethane) to give an oil which was further purified by flash chromatography (silica gel, 20% ethyl acetate in hexane) to give the title compound as a white solid (1.91 g, 37%). 1H NMR: δ (CDCl3), 9.39 (1H, br s), 7.65 (2H, d, J=8.2 Hz), 7.45-7.20 (7H, m), 4.91 (2H, s), 3.67 (1H, br s), 3.07 (2H, dd, J=7.5, 7.9 Hz), 2.40 (3H, s), 1.50-1.33 (2H, m), 1.31-1.10 (10H, m) and 0.86 (3H, t, J=6.5 Hz).

reactant | [Octyl-(toluene-4-sulfonyl)amino]-acetic acid | 0.012 mol, 4.0 g | C(CCCCCCC)N(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C17H27NO4S
reactant | NMM | 0.014 mol, 1.55 ml | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.015 mol, 2.92 g
reactant | HOBt | 0.016 mol, 2.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | O-benzylhydroxylamine hydrochloride | 0.012 mol, 1.87 g | Cl.C(C1=CC=CC=C1)ON
reactant | NMM | 0.024 mol, 2.6 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-Benzyloxy-2-[octyl-(toluene-4-sulfonyl)amino]-acetamide | 1.91 g, 37% | C(C1=CC=CC=C1)ONC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CCCCCCCC)=O | C24H34N2O4S
